US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 1,4-benzodioxane-6-boronic acid (27 mg, 0.15 mmol) gave 4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (9.5 mg, 22%) as a white solid. MS 440 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 1,4-benzodioxane-6-boronic acid | 0.15 mmol, 27 mg | O1CCOC2=C1C=CC(=C2)B(O)O | C8H9BO4
product | 4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 9.5 mg, 22% | O1CCOC2=C1C=CC(=C2)C=2N=C(SC2C(=O)O)N2C=NC1=C2C=C(C(=C1)OC)OC | C21H17N3O6S
